US09062092B2
A solution of 2-allyloxy-2-methyl-propionic acid ethyl ester (1.72 g, 10 mmol) in anhydrous tetrahydrofuran (40 mL) was stirred at room temperature under nitrogen. Lithium borohydride (44 mg, 20 mmol) was added portion-wise and the reaction mixture was stirred at room temperature for 20 h. The reaction mixture was cooled to 0° C. and saturated ammonium chloride solution was cautiously added followed by hydrochloric acid (2 M) to acidify the reaction mixture to pH 2. The mixture was extracted with diethyl ether and the organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford 2-allyloxy-2-methyl-propan-1-ol (10 mmol) which was used crude in the next step. LCMS (m/z) 153.2 [M+Na], Tr=1.16 min. A suspension of 2-allyloxy-2-methyl-propan-1-ol (10 mmol) in dichloromethane (40 mL) was stirred at 0° C. Meta-chloroperbenzoic acid (70% pure containing 20% water and 10% meta-chlorobenzoic acid, 2.9 g, 12 mmol) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 24 h. The reaction mixture was cooled to 0° C. and saturated sodium hydrogen carbonate solution and sodium thiosulfate solution were added and the mixture was stirred at 0° C. for 15 min. The organic layer was separated and the aqueous layer was extracted with dichloromethane (4×). The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford 2-methyl-2-oxiranylmethoxy-propan-1-ol (10 mmol) which was used crude in the next step. LCMS (m/z) 169.2 [M+Na], Tr=0.72 min. A solution of 2-methyl-2-oxiranylmethoxy-propan-1-ol (10 mmol) in dichloromethane (50 mL) and racemic camphor-10-sulfonic acid (765 mg, 3.3 mmol) was stirred at room temperature for 18 h. Saturated sodium hydrogen carbonate solution was added and the organic layer separated. The aqueous layer was extracted with dichloromethane and the organic extracts were combined, filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 2:3 to 1:4 to afford the title compound (826 mg, 57% over 3 steps) as a yellow oil. 1H NMR (300 MHz, d6-DMSO): δ 1.02 (s, 3H), 1.20 (s, 3H), 3.23 (d, J=11.1 Hz, 1H), 3.30-3.50 (m, 6H), 4.68 (t, J=5.4 Hz, 1H). LCMS (m/z) 169.2 [M+Na], Tr=0.72 min.

reactant | 2-allyloxy-2-methyl-propionic acid ethyl ester | 10 mmol, 1.72 g | C(C)OC(C(C)(C)OCC=C)=O | C9H16O3
reactant | Lithium borohydride | 20 mmol, 44 mg | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-allyloxy-2-methyl-propan-1-ol | 10 mmol | C(C=C)OC(CO)(C)C | C7H14O2
